US07595401B2
8-(2,5-Dimethoxy-phenylsulfanyl)-9-[2-(3-trifluoromethoxy-phenyl)-ethyl]-9H-purin-6-ylamine
The title compound was prepared from 8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine and. 1-(2-bromo-ethyl)-3-trifluoromethoxy-benzene by a procedure similar to examples 1 and 2. The compound was purified by preparative HPLC. 8-(2,5-Dimethoxy-phenylsulfanyl)-9-[2-(3-trifluoromethoxy-phenyl)-ethyl]-9H-purin-6-ylamine: Yield 17%, 1H NMR (CD3OD) δ 8.18 (s, 1H), 7.33 (t, J=8.0 Hz, 1H), 7.12-7.10 (m, 2H), 7.04-7.01 (m, 3H), 6.95 (bs, 1H), 4.57 (t, J=7.2 Hz, 2H), 3.75 (s, 3H), 3.74 (s, 3H), 3.24 (t, J=7.2 Hz, 2H); LC-MS [M+H]+ 492.1.

reactant | 8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine | COC1=C(C=C(C=C1)OC)SC=1NC2=NC=NC(=C2N1)N | C13H13N5O2S
reactant | 1-(2-bromo-ethyl)-3-trifluoromethoxy-benzene | BrCCC1=CC(=CC=C1)OC(F)(F)F | C9H8BrF3O
product | 8-(2,5-Dimethoxy-phenylsulfanyl)-9-[2-(3-trifluoromethoxy-phenyl)-ethyl]-9H-purin-6-ylamine | Yield 17% | COC1=C(C=C(C=C1)OC)SC=1N(C2=NC=NC(=C2N1)N)CCC1=CC(=CC=C1)OC(F)(F)F | C22H20F3N5O3S
